US09290511B2
ii) [1-[2-(chloromethyl)-5-phenyl-thieno[2,3-d]pyrimidin-4-yl]-4-piperidyl]methanol
4-Piperidinemethanol (0.85 g) was added to a suspension of 4-chloro-2-(chloromethyl)-5-phenyl-thieno[2,3-d]pyrimidine (1.45 g) in ethanol (70 mL). Triethylamine (1.4 mL) was added and the mixture was stirred at room temperature for 24 hr. The solvent was evaporated and the residue was dissolved in water (100 mL) and ethyl acetate (100 mL). The layers were separated and the aqueous was extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with brine (1×100 mL), dried (sodium sulfate), filtered and evaporated to give an off-white foam (1.76 g). This was purified by silica chromatography (50 g cartridge; eluent petroleum ether 40-60/ethyl acetate 0 to 50%; collection by UV trigger). Fractions corresponding to the main peak were combined and evaporated to give the target compound as a white foam (1.10 g). m/z [M+H]+373.9/375.9. Retention time 4.67 min (LCMS method+ve 6 min).

reactant | 4-Piperidinemethanol | 0.85 g | N1CCC(CC1)CO | C6H13NO
reactant | 4-chloro-2-(chloromethyl)-5-phenyl-thieno[2,3-d]pyrimidine | 1.45 g | ClC=1C2=C(N=C(N1)CCl)SC=C2C2=CC=CC=C2 | C13H8Cl2N2S
reactant | Triethylamine | 1.4 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | [1-[2-(chloromethyl)-5-phenyl-thieno[2,3-d]pyrimidin-4-yl]-4-piperidyl]methanol | 1.76 g | ClCC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)N2CCC(CC2)CO | C19H20ClN3OS
